US03971797
To a mixture of 0.01 mole of 2-methyl-3-hydroxy-4-hydroxymethyl-5-chloromethylpyridine in 50 ml. chloroform and 50 ml. pyridine is added at 0°-5°C. a solution of 0.011 moles of phosgene in benzene. The reaction mixture is allowed to warm to room temperature and is stirred overnight. The reaction mixture is then concentrated in vacuo and excess saturated sodium bicarbonate solution is added. The resulting solid is collected by filtration. Chromatography on silica gel and elution with methanol in chloroform (1-5%) gives 5-chloromethyl-8-methyl-2-oxo-4H-m-dioxino[4,5-c]pyridine.

reactant | 2-methyl-3-hydroxy-4-hydroxymethyl-5-chloromethylpyridine | 0.01 mole | CC1=NC=C(C(=C1O)CO)CCl | C8H10ClNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 0.011 moles | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-chloromethyl-8-methyl-2-oxo-4H-m-dioxino[4,5-c]pyridine | ClCC1=C2C(=C(N=C1)C)OC(OC2)=O | C9H8ClNO3
